*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2508-16N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2508-16N_freq port1 port2 PARAMS: Cpar=0.077pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=42
+ R2=0.216
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=205
+ L_EL=17.5
+ L_F0=627E6
+ PkZ=0
.ends 2508-16N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2508-18N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2508-18N_freq port1 port2 PARAMS: Cpar=0.074pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=22
+ R2=0.25
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=205
+ L_EL=14.2
+ L_F0=429E6
+ PkZ=0
.ends 2508-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2508-23N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2508-23N_freq port1 port2 PARAMS: Cpar=0.067pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=15
+ R2=0.275
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=184
+ L_EL=18.5
+ L_F0=418E6
+ PkZ=0
.ends 2508-23N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2508-27N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2508-27N_freq port1 port2 PARAMS: Cpar=0.052pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9
+ R2=0.334
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=182
+ L_EL=17.7
+ L_F0=340E6
+ PkZ=0
.ends 2508-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
